US07008759B2
Step 1C. Synthesis of 2-methyl-4-decyloxynitro benzene
To a solution of 3-methyl-4-nitrophenol (45 g, 0.294 mol) in dimethylformamide (270 mL) there were added 1-bromodecane (65 g, 0.294 mol) and potassium carbonate (121.8 g, 0.882 mol). The reaction mixture was heated to 115° C. and stirred at that temperature for 48 hours. The reaction mixture was cooled and poured into water (4 L), stirred for 0.5 hour and extracted with two portions of ethyl acetate (1.5 L and 600 mL). The combined organic extracts were washed with 5% aqueous solution sodium bicarbonate (1 L), water (1 L and 0.5 L), dried over sodium sulfate and concentrated to give the crude product (90 g, 0.294 mol, 100% yield). This product was used in the next step without purification.

reactant | 3-methyl-4-nitrophenol | 0.294 mol, 45 g | CC=1C=C(C=CC1[N+](=O)[O-])O | C7H7NO3
reactant | 1-bromodecane | 0.294 mol, 65 g | BrCCCCCCCCCC | C10H21Br
reactant | potassium carbonate | 0.882 mol, 121.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 4 L | O | H2O
solvent | dimethylformamide | 270 mL | CN(C=O)C | C3H7NO
product | 2-methyl-4-decyloxynitro benzene | 0.294 mol, 90 g, 100% yield | CC1=C(C=CC(=C1)OCCCCCCCCCC)[N+](=O)[O-] | C17H27NO3
